US05565494
Preparation of N-[[(4-chlorophenyl)amino]carbonyl]-4-(ethylamino)benzenesulfonamide
The 4-(ethylamino)benzene-sulfonamide was dissolved in 7.8 ml of acetone with 7.9 ml of 1N sodium hydroxide added. To this mixture was added 4-chlorophenylisocyanate (1.22 g, 7.9 mmoles), dissolved in 7.8 ml of acetone. This reaction mixture was allowed to stir for 25 minutes at room temperature, then filtered, with a small amount of an acetone:water (1:1) mixture being used to rinse out the flask and wash the filtered solid. The filtrate was acidified with 1N hydrochloric acid (7.9 ml) and stirred for about an hour until the initially separated oil had changed to a solid.

reactant | 4-(ethylamino)benzene-sulfonamide | C(C)NC1=CC=C(C=C1)S(=O)(=O)N | C8H12N2O2S
reactant | 4-chlorophenylisocyanate | 7.9 mmoles, 1.22 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetone | 7.8 ml | CC(=O)C | C3H6O
solvent | sodium hydroxide | 1N, 7.9 ml | [OH-].[Na+]
solvent | acetone | 7.8 ml | CC(=O)C | C3H6O
product | N-[[(4-chlorophenyl)amino]carbonyl]-4-(ethylamino)benzenesulfonamide | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC=C(C=C1)NCC | C15H16ClN3O3S
